US06124281
(a) Ethyl 4-(4-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate
To a cooled (-78° C.) solution of ethyl propiolate (8.96 mL, 88.4 mmol) in THF (100 mL) was added n-butyllithium (37.5 mL of 2.37M solution in hexane, 88.9 mmol) dropwise over 70 minutes so as to maintain the internal temperature below -70° C. Additional THF (5 mL) was used to rinse the addition funnel. A solution of 4-chloro-2-nitrobenzaldehyde (14.88 g, 80.2 mmol) in THF (30 mL) was transferred to the addition fiunel and added dropwise is over 47 minutes to maintain the reaction temperature below -70° C. Additional THF (5 mL) was used to rinse the addition funnel. The solution was stirred for 90 minutes at -70° C. and was then warmed to -60° C. glacial acetic acid (18.3 mL, 316 mmol) was quickly added. The solution was allowed to warm to 10° C. over 60 minutes and poured into diethyl ether (900 mL). The resulting solution was washed with saturated aqueous sodium carbonate (2×450 mL) and saturated aqueous sodium chloride (1×450 mL). The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated on a rotary evaporator. This product was purified by flash chromatography eluting with ethyl acetate:hexanes (90:10) to give the title compound as red oil (14.73 g, 64.8%).

reactant | ethyl propiolate | 88.4 mmol, 8.96 mL | C(C#C)(=O)OCC | C5H6O2
reactant | n-butyllithium | 88.9 mmol, 2.37M, 37.5 mL | C(CCC)[Li]
reactant | 4-chloro-2-nitrobenzaldehyde | 80.2 mmol, 14.88 g | ClC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | acetic acid | 316 mmol, 18.3 mL | C(C)(=O)O | C2H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 900 mL | C(C)OCC | C4H10O
product | Ethyl 4-(4-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate | 14.73 g, 64.8% | ClC1=CC(=C(C=C1)C(C#CC(=O)OCC)O)[N+](=O)[O-] | C12H10ClNO5
